US04360519
(b) 2-(3-Hydroxyphenyl)-2,4,6-trimethylmorpholine (Isomer B)
2-(3-methoxyphenyl)-2,4,6-trimethylmorpholine hydrochloride (Isomer B) (2.49 g) was heated under reflux with redistilled constant boiling hydrobromic acid (20 ml) under nitrogen for 1 hour. After cooling and diluting with water to 40 ml the mixture was basified with conc. aqueous ammonia. The oil which precipitated was extracted with dichloromethane. After drying (MgSO4) the solvent was removed affording a colourless oil which gave 1.16 g of colourless rhombs mp 142°-143° C. from toluene. (Found: C, 70.6; H, 8.7; N, 6.05%. C13H19NO2 requires C, 70.55; H, 8.65; N, 6.3%. NMR data indicate that the product apparently has (2R*, 6S*)-configuration.

reactant | 2-(3-methoxyphenyl)-2,4,6-trimethylmorpholine hydrochloride | 2.49 g | Cl.COC=1C=C(C=CC1)C1(CN(CC(O1)C)C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Hydroxyphenyl)-2,4,6-trimethylmorpholine | OC=1C=C(C=CC1)C1(CN(CC(O1)C)C)C | C13H19NO2
